US04906736
The preferred starting point for the further reaction of the amino copper complex formazan compound is the synthesis solution of (b), which is at pH 4, by reacting the solution with thorough stirring at a temperature of 0° to 5° C. and at a pH between 3 and 4, which is maintained by means of an aqueous sodium carbonate solution, with 16.6 parts of cyanuric chloride to give the 2,4-dichloro-s-triazin-6-ylamino copper complex formazan compound in the course of 3 to 4 hours.

reactant | amino copper | N[Cu]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
product | 2,4-dichloro-s-triazin-6-ylamino copper | ClC1=NC(=NC(=N1)Cl)N[Cu] | InChI=1S/C3HCl2N4.Cu/c4-1-7-2(5)9-3(6)8-1;/h(H-,6,7,8,9);/q-1;+1
